US07129238B2
(RS)-N-[4-Carbamimidoyl-2-(5-nitro-pyridin-2-yloxy)-benzyl]-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide hydrochloride was hydrogenated at rt and normal pressure in EtOH/THF using Pd (10% on charcoal) as a catalyst to give (RS)-N-[2-(5-amino-pyridin-2-yloxy)-4-carbamimidoyl-benzyl]-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide hydrochloride. Light yellow solid. MS 468.1 ([M+H]+)

reactant | (RS)-N-[4-Carbamimidoyl-2-(5-nitro-pyridin-2-yloxy)-benzyl]-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide hydrochloride | Cl.C(N)(=N)C1=CC(=C(CNC(C(C2=C(C=C(C=C2)OC)F)OCC)=O)C=C1)OC1=NC=C(C=C1)[N+](=O)[O-]
solvent | EtOH THF | CCO.C1CCOC1
catalyst | Pd | [Pd] | Pd
product | (RS)-N-[2-(5-amino-pyridin-2-yloxy)-4-carbamimidoyl-benzyl]-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide hydrochloride | Cl.NC=1C=CC(=NC1)OC1=C(CNC(C(C2=C(C=C(C=C2)OC)F)OCC)=O)C=CC(=C1)C(N)=N | InChI=1S/C24H26FN5O4.ClH/c1-3-33-22(18-8-7-17(32-2)11-19(18)25)24(31)30-12-15-5-4-14(23(27)28)10-20(15)34-21-9-6-16(26)13-29-21;/h4-11,13,22H,3,12,26H2,1-2H3,(H3,27,28)(H,30,31);1H
